US07615568B2
To N-(5-chloropyridin-2-yl)-3-(trifluoroacetyl)amino-pyridine-2-carboxamide (1 g, 2.9 mmol) was added 5 mL of 2 M NH3 in MeOH. The reaction vessel was capped and heated to 50° C. for 12 h. The reaction mixture was cooled to 0° C. for 30 min and filtered to provide N-(5-chloropyridin-2-yl)-3-aminopyridine-2-carboxamide (0.72 g, 100%).

reactant | N-(5-chloropyridin-2-yl)-3-(trifluoroacetyl)amino-pyridine-2-carboxamide | 2.9 mmol, 1 g | ClC=1C=CC(=NC1)NC(=O)C1=NC=CC=C1NC(C(F)(F)F)=O | C13H8ClF3N4O2
reactant | NH3 | 2 M, 5 mL | N | H3N
solvent | MeOH | CO | CH4O
product | N-(5-chloropyridin-2-yl)-3-aminopyridine-2-carboxamide | 0.72 g, 100% | ClC=1C=CC(=NC1)NC(=O)C1=NC=CC=C1N | C11H9ClN4O
